US06897231B2
A. N-[3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-2-Furylcarboxamide
To a solution of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.300 g, 0.94 mmol) in tetrahydrofuran (10 mL), was added 2-furoyl chloride (0.139 mL, 1.41 mmol) and triethyl amine (0.655 mL, 4.7 mmol). After stirring at room temperature overnight, the reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic phase was dried under vacuum and the title product was purified by column chromatography (SiO2, 20-30% ethyl acetate in hexanes) (0.370 g, 95%): ES-MS (m/z) 413 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.94 mmol, 0.300 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H18N4O
reactant | 2-furoyl chloride | 1.41 mmol, 0.139 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | triethyl amine | 4.7 mmol, 0.655 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-2-Furylcarboxamide | C(#N)C1CCC(OC1)N1N=C(C2=CC=CC=C12)C=1C=C(C=CC1)NC(=O)C=1OC=CC1 | C24H20N4O3
